US07244843B2
Step A. Preparation (R)-2-Benzyl-9-propyl-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one
A mixture of (R)-9-chloro-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one (50 mg, 0.15 mmol), bis(tri-t-butyl phosphine) palladium (2.3 mg, 0.0045 mmol), propyl boronic acid (16 mg, 0.18 mmol), and potassium fluoride(19 mg, 0.33 mmol) in anhydrous 1,4-dioxane (2 mL) was degassed, heated to 100° C. and stirred for 6 h under nitrogen atomsphare. Then the mixture was cooled down to room temperature, diluted with 10 ml of EtOAc and filtered through celite pad. The filtrate was concentrated to give the desired product which was used for next step without further purification. MS (ESI) 335 (M+H).

reactant | (R)-9-chloro-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one | 0.15 mmol, 50 mg | ClC1=CC=2C[C@H]3N(C(C2C=C1)=O)CCNC3 | C12H13ClN2O
reactant | propyl boronic acid | 0.18 mmol, 16 mg | C(CC)B(O)O | C3H9BO2
reactant | potassium fluoride | 0.33 mmol, 19 mg | [F-].[K+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tri-t-butyl phosphine) palladium | 0.0045 mmol, 2.3 mg | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
product | (R)-2-Benzyl-9-propyl-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one | C(C1=CC=CC=C1)N1C[C@@H]2N(C(C=3C=CC(=CC3C2)CCC)=O)CC1 | C22H26N2O
